US07335674B2
1.5) 2-(2,6-difluorophenyl)-5-{[2-(dimethylamino)ethyl]amino}-1,3-benzothiazole-4,7-dione:
104 ml (0.95 mmol; 1.5 equivalents) of N,N-dimethylethylenediamine are added to 195 mg of 2-(2,6-difluorophenyl)-5-methoxy-1,3-benzothiazole-4,7-dione in solution in 20 ml of anhydrous ethanol. The reaction mixture is stirred at 70° C. for 2 hours then the solvent is evaporated off under reduced pressure. The residue is purified on a silica column (eluent: 5% methanol in dichloromethane). 130 mg (yield=57%) of expected compound is obtained in the form of a red powder.

reactant | N,N-dimethylethylenediamine | 0.95 mmol, 104 ml, 1.5 equivalents | CN(CCN)C | C4H12N2
reactant | 2-(2,6-difluorophenyl)-5-methoxy-1,3-benzothiazole-4,7-dione | 195 mg | FC1=C(C(=CC=C1)F)C=1SC2=C(N1)C(C(=CC2=O)OC)=O | C14H7F2NO3S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2,6-difluorophenyl)-5-{[2-(dimethylamino)ethyl]amino}-1,3-benzothiazole-4,7-dione | 130 mg, yield=57% | FC1=C(C(=CC=C1)F)C=1SC2=C(N1)C(C(=CC2=O)NCCN(C)C)=O | C17H15F2N3O2S
